US06150373
A 1.0M solution of lithium aluminium hydride in anhydrous tetrahydrofuran (91 μl; 91 μmol) was added dropwise to a stirred solution of 40 mg (82 μmol) of ethyl 2-[4-[[3-(2,6-dichlorophenyl)-1,2,3,4-tetrahydro-1-methyl-2-oxopyrimido[4,5-d]pyrimidin-7-yl]amino]-phenyl]acetate in 4 ml of anhydrous tetrahydrofuran at 0° C. and the mixture was stirred for a further 90 minutes. The reaction was quenched with 10 ml of 2M sodium hydroxide and the mixture was extracted twice with 10 ml of ethyl acetate each time. The combined organic extracts were dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography on silica gel using ethyl acetate/hexane (2:1) for the elution. Product-containing fractions were evaporated to give 25 mg (68%) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-[4-(2-hydroxyethyl)anilino]-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 148-151° C.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-[4-[[3-(2,6-dichlorophenyl)-1,2,3,4-tetrahydro-1-methyl-2-oxopyrimido[4,5-d]pyrimidin-7-yl]amino]-phenyl]acetate | 82 μmol, 40 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)CC(=O)OCC)C)=O | C23H21Cl2N5O3
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 91 μmol, 91 μl | O1CCCC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-[4-(2-hydroxyethyl)anilino]-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 25 mg, 68% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)CCO)C)=O | C21H19Cl2N5O2
